US06965045B2
Synthesis of Diethylthioether Silver Nitrite
To a 100 ml round bottom flask was sequentially added 10 mmol (1.54 g) of silver nitrite (AgNO2) and 20 ml of acetonitrile, followed by stirring at room temperature for 5 minutes. Next, 10 mmol (0.90 g, 1.08 ml) of diethylthioether was dropwise added to the flask by means of a syringe over 10 seconds and stirred at room temperature. After stirring for 30 minutes, the reaction mixture was warmed to 50° C. and further stirred for 30 minutes. Following cooling to room temperature, the reaction mixture was filtered through a microfilter and evaporated under vacuum to produce a pale yellow solid matter. 1H-NMR result in CD3CN is as follows: 1.31 (t, 7.34 Hz, 6H), 2.72 (broad q, 7.35 Hz, 4H).

reactant | silver nitrite | 10 mmol, 1.54 g | N(=O)[O-].[Ag+]
reactant | diethylthioether | 10 mmol, 1.08 ml, 0.90 g | C(C)SCC | C4H10S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Diethylthioether Silver Nitrite | N(=O)[O-].[Ag+].C(C)SCC | InChI=1S/C4H10S.Ag.HNO2/c1-3-5-4-2;;2-1-3/h3-4H2,1-2H3;;(H,2,3)/q;+1;/p-1
